US04714492
A flask fitted with a reflux condenser and calcium chloride drying tube is charged with 70 ml dry methanol, 7.3 g of 96% sulfuric acid and 10.15 g of trimethyl orthoformate. 3-Benzoyl-4-hydroxy-6-methyl-2-pyrone (22 g) is then added in small portions and the resulting reaction mixture is refluxed for 24 hours. The mixture is cooled and poured into water. Extraction with methylene chloride yields 17.7 g of crude 3-methoxycarbonyl-6-methyl-2-phenyl-4-pyrone. mp (from methylene chloride/ether)=101°-102.5° C.

reactant | methanol | 70 ml | CO | CH4O
reactant | sulfuric acid | 7.3 g | S(O)(O)(=O)=O | H2O4S
reactant | trimethyl orthoformate | 10.15 g | C(OC)(OC)OC | C4H10O3
reactant | 3-Benzoyl-4-hydroxy-6-methyl-2-pyrone | 22 g | C(C1=CC=CC=C1)(=O)C=1C(OC(=CC1O)C)=O | C13H10O4
solvent | water | O | H2O
product | 3-methoxycarbonyl-6-methyl-2-phenyl-4-pyrone | 17.7 g | COC(=O)C1=C(OC(=CC1=O)C)C1=CC=CC=C1 | C14H12O4
